US07834039B2
5-(5-(4-(dimethoxymethyl)phenyl)-1,2,4-oxadiazol-3-yl)-2-isopropoxybenzonitrile (0.086 g, 0.227 mmol) and p-toluenesulfonic acid monohydrate (0.043 g, 0.227 mmol) were added in acetone (10 ml) to give a colorless solution. The reaction mixture was heated at 60° C. for 2 hr. The solution was cooled, the reaction mixture was concentrated, the residue was purified via silica gel chromatography (12 g, 50% EtOAc:Heptane) to afford 5-(5-(4-formylphenyl)-1,2,4-oxadiazol-3-yl)-2-isopropoxybenzonitrile (0.077 g, 0.231 mmol, 102% yield) as white solid.

reactant | 5-(5-(4-(dimethoxymethyl)phenyl)-1,2,4-oxadiazol-3-yl)-2-isopropoxybenzonitrile | 0.227 mmol, 0.086 g | COC(C1=CC=C(C=C1)C1=NC(=NO1)C=1C=CC(=C(C#N)C1)OC(C)C)OC | C21H21N3O4
reactant | p-toluenesulfonic acid monohydrate | 0.227 mmol, 0.043 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 5-(5-(4-formylphenyl)-1,2,4-oxadiazol-3-yl)-2-isopropoxybenzonitrile | 0.231 mmol, 0.077 g, 102% yield | C(=O)C1=CC=C(C=C1)C1=NC(=NO1)C=1C=CC(=C(C#N)C1)OC(C)C | C19H15N3O3
